US06528510B1
6-tert-Butyl-5-mercapto-indole-1-carboxylic acid tert-butyl ester
(5-tert-Butyl-4-mercapto-2-methyl-phenyl)-carbamic acid tert-butyl ester (prepared in Example EE; 20 g, 68 mmol) was dissolved in 100 mL of THF, cooled to −40° C., and treated dropwise with sec-butyllithium (1.3 M, 156 mL, 203 mmol). After the addition was complete, the reaction mixture was stirred at −30° C. to −45° C. for 30 minutes. To the mixture was added DMF (14.8 g, 203.39 mmol), and the solution was stirred at −35° C. for 30 minutes. The reaction mixture was slowly warmed to room temperature and was quenched with saturated NH4Cl solution. EtOAc (200 mL) was added; the organic layer was washed with brine, dried (MgSO4) and concentrated. The residue was dissolved in 100 mL of THF and 2 mL of concentrated HCl and stirred at room temperature for 1 hour. The solution was diluted with EtOAc, washed with NaHCO3 solution and brine, and dried (MgSO4). The crude product was purified by flash silica gel chromatography to give the title compound. MS(APCI): 304 (M−H).

reactant | (5-tert-Butyl-4-mercapto-2-methyl-phenyl)-carbamic acid tert-butyl ester | 68 mmol, 20 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(C)(C)C)S)C)=O | C16H25NO2S
reactant | sec-butyllithium | 203 mmol, 1.3 M, 156 mL | C(C)(CC)[Li]
reactant | DMF | 203.39 mmol, 14.8 g | CN(C)C=O | C3H7NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-tert-Butyl-5-mercapto-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC(=C(C=C12)C(C)(C)C)S | C17H23NO2S
